US05374720
Under a nitrogen atmosphere at -20 ° C., to a solution of p-nitrobenzyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (13.76 g, 23.1 mmol) in acetonitrile (150 ml) was added N,N-diisopropylethylamine (13.44 ml, 77.1 mmol), followed by a suspension of (2S,4S)-2-(N-ethylpyrrolidin-3-yl)-4-mercaptopyrrolidine dihydrochloride (7.0 g, 25.7 mmol, compound of Reference Example 40 in N,N-dimethylformamide (40 ml). After stirring overnight at -20° C., the reaction mixture was concentrated in vacuo. The resulting precipitate was collected by filtration, and washed with acetonitrile (30 ml) followed by isopropyl ether (30 ml) to obtain p-nitrobenzyl (1R,5S,6S)-2-[(2S, 4S)-2-(N-ethylpyrrolidin-3-yl)pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (10.1 g, yield: 72%) as a crude crystal.

reactant | p-nitrobenzyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 23.1 mmol, 13.76 g | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)OC=1[C@@H]([C@@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C29H27N2O10P
reactant | N,N-diisopropylethylamine | 77.1 mmol, 13.44 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (2S,4S)-2-(N-ethylpyrrolidin-3-yl)-4-mercaptopyrrolidine dihydrochloride | Cl.Cl.C(C)N1CC(CC1)[C@H]1NC[C@H](C1)S
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | p-nitrobenzyl (1R,5S,6S)-2-[(2S, 4S)-2-(N-ethylpyrrolidin-3-yl)pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 10.1 g, yield: 72% | C(C)N1CC(CC1)[C@H]1NC[C@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C27H36N4O6S
